US05155133
b) 4-[3-[(2-hydroxyethyl)[3-(propylthio)propyl]amino]propoxy]benzonitrile
A mixture of 4-[3-[(2-hydroxyethyl)amino]propoxy]benzonitrile (3 g), 1-bromo-3-(propylthio)propane (2.7 g) and potassium carbonate (3.7 g) in 2-propanol (50 ml) was refluxed for 28 hours. The solvent was evaporated and the residue dissolved in aqueous HCl (2 M) and extracted with diethylether. The aqueous layer was basified with sodium hydroxide (10 M) and extracted with methylene chloride followed by drying over sodium sulfate. Evaporation of the solvent gave a crude residue, which was purified by column chromatography. Yield 2.6 g of the title compound as an oil.

reactant | 4-[3-[(2-hydroxyethyl)amino]propoxy]benzonitrile | 3 g | OCCNCCCOC1=CC=C(C#N)C=C1 | C12H16N2O2
reactant | 1-bromo-3-(propylthio)propane | 2.7 g | BrCCCSCCC | C6H13BrS
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 4-[3-[(2-hydroxyethyl)[3-(propylthio)propyl]amino]propoxy]benzonitrile | OCCN(CCCOC1=CC=C(C#N)C=C1)CCCSCCC | C18H28N2O2S
